US05859255
A solution containing 3-bromoquinoline (1.0 g, 4.8mmol), iodine (1.22g, 4.8mmol) and triethylamine (0.48 g, 4.8 mmol) in CF2ClCFCl2 (30 ml) was placed in a fluorination apparatus fitted with a drying tube filled with soda lime. Elemental fluorine (5 mmol) as a 10% mixture in dry nitrogen was then passed through the stirred solution using narrow bore PTFE tubing at ca. 15 ml/min. After the fluorine had been added the solution was poured into 10% aqueous sodium metabisulfite solution (30 ml) and extracted with dichloromethane. The organic extracts were dried and evaporated to a brown oil (0.95 g). GC/MS analysis showed a 56% conversion of starting material. Column chromatography on silica gel with dichloromethane as eluant gave 2fluoro-3-bromoquinoline (0.52g, 85%); mp 75°-76° C. (vacuum sublimation oil bath temp. 50° C./<1 mmHg) as white needles; RF 0.69 (CH2Cl2); (Found: C, 47.5; H, 2.1; N, 6.2. C9H5NBrF requires: C, 47.8; H, 2.2; N, 6.2%); δH (400 MHz, CDCl3, Me4Si) 7.55 ppm (1H, d d, JH5,H6 =JH6,H7 8.0, H-6), 7.74 (1H, d d d, JH7,H8 8.4, JH6,H7 7.2, JH5,H7 1.2, H-7), 7.76 (1H,d, JH5,H6 8.0, H-5), 7.91 (1H, d d, JH7,H8 8.4, JH6,H8 0.8, H-8), 8.42 (1H, d, JH4,F 8.4, H-4); δC (100 MHz, CDCl3, Me4Si) 104.0 (d, 2J 43.2, C-3), 126.6 (s, C-6), 127.0 (d, 4J 2.7, C-8), 128.0 (d, 5J 1.9, C-5) 128.0 (d, 4J 2.2, C-4a), 130.9 (d, 5J 1.1, C-7), 143.5 (d, 3J, 3.7, C-4), 144.2 (d, 3J 15.1, C-8a), 157.3 (d, 1J 238.1, C-2); δF (235 MHz, CDCl3, CFCl3) -60.8ppm (s); m/z (E1+) 225 (M+, 100%), 227 (M+, 74), 146 (56), 126 (23), 101 (18), 75 (14).

reactant | 3-bromoquinoline | 4.8mmol, 1.0 g | BrC=1C=NC2=CC=CC=C2C1 | C9H6BrN
reactant | iodine | 4.8mmol, 1.22g | II | I2
reactant | triethylamine | 4.8 mmol, 0.48 g | C(C)N(CC)CC | C6H15N
reactant | fluorine | 5 mmol | FF | F2
solvent | sodium metabisulfite | 30 ml | S(=O)(=O)([O-])S(=O)[O-].[Na+].[Na+]
product | 2fluoro-3-bromoquinoline | 0.52g, 85% | FC1=NC2=CC=CC=C2C=C1Br | C9H5BrFN
